US05071983
2',3'-Dideoxycytidine (2.4 mmoles, 0.5 g, Pharmacia, Piscataway, N.J.), dimethylaminopyridine (0.178 mmoles, 21.7 mg), triethylamine (6.34 mmoles, 0.886 ml) and propionic anhydride (1 ml, Aldrich Chemicals, Milwaukee, Wis.) were suspended in 50 ml of acetonitrile. The reaction was allowed to proceed at room temperature for 24 hours after which time 10 ml of methanol were added. The solvent from the reaction was removed under vacuum and the residue chromatographed on a column of silica gel, 5×40 cm. The mobile phase was chloroform/methanol (9:1; v/v). The product containing fractions were combined and the solvent removed under vacuum. The residue was dissolved with water and 320 units of porcine liver esterase type 1 (EC 3.1.1.1, Sigma Chemicals, St. Louis, Mo.) added. After 24 hours at room temperature the pH was adjusted to 7.0 from 5.5 and an additional 320 units of esterase added. One day later the reaction was complete and the solvent removed under vacuum. The residue was chromatographed on a silica gel column (5×40 cm) and eluted with chloroform/methanol (9:1, v/v). Product containing fractions were combined and the solvent removed in vacuo yielding 0.408 g of 2',3'-dideoxy-N4 -pivaloylcytidine that contained 0.5 equivalents of water.

reactant | 2',3'-Dideoxycytidine | 2.4 mmoles, 0.5 g | [C@@H]1(CC[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O3
reactant | dimethylaminopyridine | 0.178 mmoles, 21.7 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 6.34 mmoles, 0.886 ml | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 1 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | methanol | 10 ml | CO | CH4O
product | 2',3'-dideoxy-N4 -pivaloylcytidine | 0.408 g | C(C(C)(C)C)(=O)NC1=NC(N([C@H]2CC[C@@H](CO)O2)C=C1)=O | C14H21N3O4
